US08044209B2
To a solution of 2-Bromo-4-{(S)-1-[(R)-1-(4-methoxy-phenyl)-ethyl]-pyrrolidin-2-yl}-pyridine (0.15 g, 0.41 mmol) in toluene (30 mL) are added indoline (0.10 g, 0.83 mmol), 2-(dicyclohexylphosphino)-biphenyl (14 mg, 0.04 mmol), Pd2(dba)3 (19 mg, 0.02 mmol) and potassium tert-butoxide (0.11 g, 1.04 mmol). The reaction mixture is stirred at 85° C. for 3 h and cooled to room temperature. Water and EtOAc are added to the mixture. The layers are separated and the aqueous layer is extracted with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4, filtered and concentrated down. The crude product is purified by flash chromatography on silica gel (EtOAc/Hexane: 5%˜25%) to give (1-(4-{(S)-1-[(R)-1-(4-Methoxy-phenyl)-ethyl]-pyrrolidin-2-yl}-pyridin-2-yl)-2,3-dihydro-1H-indole (140 mg, 84%) as an oil. M/Z=400.2 [M+1]

reactant | 2-Bromo-4-{(S)-1-[(R)-1-(4-methoxy-phenyl)-ethyl]-pyrrolidin-2-yl}-pyridine | 0.41 mmol, 0.15 g | BrC1=NC=CC(=C1)[C@H]1N(CCC1)[C@H](C)C1=CC=C(C=C1)OC | C18H21BrN2O
reactant | indoline | 0.83 mmol, 0.10 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | 2-(dicyclohexylphosphino)-biphenyl | 0.04 mmol, 14 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | potassium tert-butoxide | 1.04 mmol, 0.11 g | CC(C)([O-])C.[K+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.02 mmol, 19 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | 1-(4-{(S)-1-[(R)-1-(4-Methoxy-phenyl)-ethyl]-pyrrolidin-2-yl}-pyridin-2-yl)-2,3-dihydro-1H-indole | 140 mg, 84% | COC1=CC=C(C=C1)[C@@H](C)N1[C@@H](CCC1)C1=CC(=NC=C1)N1CCC2=CC=CC=C12 | C26H29N3O
